US07687490B2
A 1.0 M diisobutylaluminum hydride/toluene solution (2.4 ml) was added dropwise to a solution of 578 mg of 5-t-butyldimethylsilyloxymethyl-4-ethoxycarbonylthiazole in 10 ml of toluene under an argon atmosphere at −60° C. The mixture was stirred at the same temperature for 2 hr, water and ethyl acetate were added thereto and the mixture was adjusted to pH 5.5 by the addition of 1 N aqueous hydrochloric acid. The insolubles were removed by filtration through Celite, and the filtrate was extracted twice with ethyl acetate. The organic layers were combined, were washed with brine, were dried over anhydrous magnesium sulfate, were filtered, and were concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1 to ethyl acetate only) to give 308 mg of 5-t-butyldimethylsilyloxymethyl-4-formylthiazole.

reactant | diisobutylaluminum hydride toluene | 1.0 M, 2.4 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | 5-t-butyldimethylsilyloxymethyl-4-ethoxycarbonylthiazole | 578 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(N=CS1)C(=O)OCC | C13H23NO3SSi
reactant | water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-t-butyldimethylsilyloxymethyl-4-formylthiazole | 308 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(N=CS1)C=O | C11H19NO2SSi
